US06538007B1
A mixture of N-[(R)-1-[3-(4-pyridyl)-2-propenoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine benzyl ester (233 mg), PtO2 (60 mg) in ethanol (10 ml), 4N HCl in ethyl acetate (121 μl) and PtO2 (50% wet, 1.2 g) was stirred vigorously under hydrogen (1 atm) atmosphere. After 3.5 hours, the catalyst was removed by filtration, and the filtrate was evaporated in vacuo. The residue was dissolved in water (10 ml). The solution was adjusted to pH 6.5 with aqueous NaHCO3, then evaporated in vacuo. The residue was purified by ODS-chromatography (Disogel SP-120®) eluting with 4% CH3CN/water. The eluent was concentrated in vacuo and freeze-dried to give N-[(R)-1-[3-(4-piperidyl)propionyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine (154 mg) as a white powder, which is the compound obtained in Example 8.

reactant | N-[(R)-1-[3-(4-pyridyl)-2-propenoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine benzyl ester | 233 mg | C(C1=CC=CC=C1)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(C=CC1=CC=NC=C1)=O)NC(C)=O)=O | C26H30N4O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 121 μl | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 60 mg | O=[Pt]=O
catalyst | PtO2 | 1.2 g | O=[Pt]=O
product | N-[(R)-1-[3-(4-piperidyl)propionyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine | 154 mg | N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC[C@@H](C(=O)O)NC(C)=O | C19H32N4O5
